US07566699B2
2′-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-6′-(methoxycarbonylmethoxy)acetophenone
To a solution of 2′-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6′-hydroxyacetophenone (0.6 g) in N,N-dimethylformamide (5 mL) were added potassium carbonate (0.26 g) and methyl bromoacetate (0.13 mL), and the mixture was stirred at room temperature for 3 days. The reaction mixture was poured into water, and the precipitated crystals were collected by filtration. The crystals were washed with water and dried under reduced pressure to give the title compound (0.62 g).

reactant | 2′-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-6′-hydroxyacetophenone | 0.6 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C(C(=CC=C1)O)C(C)=O | C22H26O12
reactant | potassium carbonate | 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.13 mL | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2′-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-6′-(methoxycarbonylmethoxy)acetophenone | 0.62 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C(C(=CC=C1)OCC(=O)OC)C(C)=O | C25H30O14
